US08242104B2
Trifluoroacetic acid (3 ml) was added to a mixture of 153 mg of (S)-tert-butyl 1-(2-(1-isopropyl-1H-1,2,4-triazol-5-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepin-9-yl)pyrrolidine-2-carboxylate and 0.2 ml of triethylsilane in 5 ml of dichloromethane. The reaction mixture was stirred for 3 hours. The mixture was concentrated, the residue partitioned between 1 M aq. Na2CO3 and ethyl ether. The aqueous layer was extracted with ethyl acetate two more times. The organic layers were discarded, the aqueous solution neutralized to pH 6. A precipitate was collected, washed with water, dried in high vacuum for 36 hours to give (S)-1-(2-(1-isopropyl-1H-1,2,4-triazol-5-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepin-9-yl)pyrrolidine-2-carboxylic acid. Yield 55 mg. M/z 409.3, calc. 408.19.

reactant | Trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | (S)-tert-butyl 1-(2-(1-isopropyl-1H-1,2,4-triazol-5-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepin-9-yl)pyrrolidine-2-carboxylate | 153 mg | C(C)(C)N1N=CN=C1C=1N=C2N(CCOC3=C2C=CC(=C3)N3[C@@H](CCC3)C(=O)OC(C)(C)C)C1 | C25H32N6O3
reactant | triethylsilane | 0.2 ml | C(C)[SiH](CC)CC | C6H16Si
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (S)-1-(2-(1-isopropyl-1H-1,2,4-triazol-5-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepin-9-yl)pyrrolidine-2-carboxylic acid | C(C)(C)N1N=CN=C1C=1N=C2N(CCOC3=C2C=CC(=C3)N3[C@@H](CCC3)C(=O)O)C1 | C21H24N6O3
